US06693123B2
A mixture of methyl 2-chloro-4-nitrobenzoate (44.2 g, 205 mmol), phenylboronic acid (27.5 g, 226 mmol), sodium carbonate (2.0 M in water, 123 mL, 246 mmol), and bis(triphenylphosphine)palladium(II) chloride (2.8 g, 4 mmol) in dioxane (300 mL) was degassed by nitrogen, and heated at 90-95° C. for 20 hours. The reaction mixture was diluted with ether (500 mL) and ethyl actate (500 mL), washed with water (2 times, 200 mL each) and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was recrystalized from hexane-ethyl acetate (1/1) to give 2-phenyl-4-nitrobenzoic acid methyl ester as a white solid (43.3 g). The mother liquid from the recrystalization was concentrated in vacuo, and the residue was purified by column chromataography (80:15:5 hexane-chloroform-ethyl acetate) to yield an additional 5.2 g of the desired compound (total yield 48.5 g, 92%). 1H NMR (300 MHz, CDCl3) δ 8.25 (d, 1H), 8.24 (dd, 1H), 7.94 (dd, 1H), 7.44 (m, 3H), 7.35 (m, 2H), 3.67 (s, 3H).

reactant | methyl 2-chloro-4-nitrobenzoate | 205 mmol, 44.2 g | ClC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | phenylboronic acid | 226 mmol, 27.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 246 mmol, 2.0 M, 123 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 4 mmol, 2.8 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-phenyl-4-nitrobenzoic acid methyl ester | 43.3 g | COC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C14H11NO4
